US04730028
Terpolymerization of N-Octylacrylamide-Acrylamide-Vinyl Sulfonate
A one liter Morton style resin kettle, fitted with a chilled water condenser, thermometer, nitrogen sparger and mechanical stirrer was charged with 500 ml of purified water. The water was refluxed for 1 hour with a nitrogen purge and then cooled to room temperature. Acrylamide, 9.886 g (0.14 mole), 4.81 g (0.37 mole) of sodium vinyl sulfonate as a 25% solution in water, 0.33 g (0.002 mole) of N-octylacrylamide and 15 g of sodium dodecyl sulfate (SDS) were charged into the flask. The reaction solution was heated to 50° C. and 0.01 g potassium persulfate was added. After 17 hours at 50° C. and 300 rpm stirring, the viscous solution was slowly poured into 3 L of methanol and the precipitated polymer was isolated by filtration. The polymer was then masticated in a Waring blender with 2 L of methanol for 30 seconds, filtered and dried under vacuum at room temperature. The yield of the polymer was 10.9 g.

reactant | Acrylamide | C(C=C)(=O)N | C3H5NO
reactant | sodium vinyl sulfonate | 0.37 mole, 4.81 g | C(=C)S(=O)(=O)[O-].[Na+]
reactant | N-octylacrylamide | 0.002 mole, 0.33 g | C(CCCCCCC)NC(C=C)=O | C11H21NO
reactant | sodium dodecyl sulfate | 15 g | S(=O)(=O)(OCCCCCCCCCCCC)[O-].[Na+]
reactant | potassium persulfate | 0.01 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
solvent | water | O | H2O
solvent | water | 500 ml | O | H2O
solvent | methanol | 2 L | CO | CH4O
solvent | methanol | 3 L | CO | CH4O
product | N-Octylacrylamide Acrylamide Vinyl Sulfonate | C(CCCCCCC)NC(C=C)=O.C(C=C)(=O)N.C(=C)S(=O)(=O)[O-] | InChI=1S/C11H21NO.C3H5NO.C2H4O3S/c1-3-5-6-7-8-9-10-12-11(13)4-2;1-2-3(4)5;1-2-6(3,4)5/h4H,2-3,5-10H2,1H3,(H,12,13);2H,1H2,(H2,4,5);2H,1H2,(H,3,4,5)/p-1
